US07129250B2
5-Methoxyindole (294 mg, 2.0 mmol) was dissolved in THF (10 mL) and treated with 1M KOtBu in THF (2.2 mL, 2.2 mmol). After stirring for 1 hour, allyl bromide (190 μL, 2.2 mmol) was added and the reaction mixture was stirred for an additional 2 hrs. Standard aqueous workup provided N-Allyl-5-methoxyindole as an off white solid, which was used without further purification.

reactant | 5-Methoxyindole | 2.0 mmol, 294 mg | COC=1C=C2C=CNC2=CC1 | C9H9NO
reactant | KOtBu | 1M | CC(C)(C)[O-].[K+]
reactant | allyl bromide | 2.2 mmol, 190 μL | C(C=C)Br | C3H5Br
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 2.2 mmol, 2.2 mL | C1CCOC1 | C4H8O
product | N-Allyl-5-methoxyindole | C(C=C)N1C=CC2=CC(=CC=C12)OC | C12H13NO
